US07435815B2
5-Methyl-pyridine-2-sulfonic acid p-tolylamide
prepared by reaction of p-tolylamine with 5-methyl-pyridine-2-sulfonyl chloride

reactant | p-tolylamine | CC=1C=CC(=CC1)N | C7H9N
reactant | 5-methyl-pyridine-2-sulfonyl chloride | CC=1C=CC(=NC1)S(=O)(=O)Cl | C6H6ClNO2S
product | 5-Methyl-pyridine-2-sulfonic acid p-tolylamide | C1(=CC=C(C=C1)NS(=O)(=O)C1=NC=C(C=C1)C)C | C13H14N2O2S
